* PSpice Model Editor - Version 17.2.0

*$
* Ideal Transformer with Center-tapped Secondary
.subckt XFRM_LIN/CT-SEC 1 3 4 5 6 Params: 
+ Lp_value=20mh 
+ Ls1_value=10mh 
+ Ls2_value=10mh 
+ Coupling=.80 
+ Rp_value=.25
+ Rs_value=.25
Lp1 7 2 {Lp_value/2}
Lp2 2 8 {Lp_value/2}
Ls1 9 5 {Ls1_value}
Ls2 5 10 {Ls2_value}
Rp1 1 7 {Rp_value/2}
Rp2 8 3 {Rp_value/2}
Rs1 9 4 {Rs_value/2}	
Rs2 10 6 {Rs_value/2}
K1 Lp1 Lp2 Ls1 Ls2 {coupling}
.ends
*$
