* source RECTIFICATIONSTAGE
X_U1         N02955 N02810 N02722 N02734 N02817 TL071/301/TI
R_R1         N02810 N02817  50k TC=0,0 
R_R2         0 N02810  50k TC=0,0 
R_R3         N02817 N02955  1k TC=0,0 
X_D2         0 N02955 awbbzx55c5v1 PARAMS:               
X_D1         N07620 N07666 awb1n5406 PARAMS:                
X_D4         N07626 N07620 awb1n5406 PARAMS:                
V_V5         0 N07856  AC 0
+SIN 0 26.4 60 0 0 0
V_V4         N07620 0  AC 0
+SIN 0 26.4 60 0 0 0
C_C4         0 N07626  2200u  TC=0,0 
X_D3         N07626 N07856 awb1n5406 PARAMS:                
X_D5         N07856 N07666 awb1n5406 PARAMS:                
C_C1         0 N07666  2200u  TC=0,0 
C_C2         0 N07666  2200u  TC=0,0 
C_C3         0 N07626  2200u  TC=0,0 
X_U2         N09679 N09810 N07666 N10874 N09469 TL071/301/TI
X_Q1         N07666 N09524 N09741 TIP122
R_R4         N09524 N09469  100 TC=0,0 
V_V6         N09679 0 5
R_R5         N09741 N09810  100k TC=0,0 
R_R6         N09810 0  50k TC=0,0 
R_Rload         0 N09741  10 TC=0,0 
V_V7         0 N10874 5
R_R7         N10930 N10936  100 TC=0,0 
R_R8         N10968 N10962  100k TC=0,0 
X_U3         N10874 N10962 N09679 N07626 N10936 TL071/301/TI
R_R9         N10962 0  50k TC=0,0 
R_Rload1         0 N10968  10 TC=0,0 
X_Q2         N07626 N10930 N10968 TIP127
